US06552015B2
Racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol (6.37 g, 25.30 mmol) was dissolved in trifluoroacetic acid (30.8 mL) and heated at reflux for 1 hour. The reaction was concentrated diluted with water (200 mL), adjusted to pH 10 with ammonium hydroxide, and extracted with diethyl ether (2×200 mL). The combined organic layers were washed with brine (100 mL), dried with magnesium sulfate and concentrated to yield racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene as a white solid which had the following properties: Mp. 82-84° C., 1H NMR CDCl3 δ: 7.27 (q, J=7.7 & 8.5 Hz, 4H), 6.24 (d, J=5.6 Hz, 1H), 3.45-3.36 (m, 2H), 2.82 (dd, J=4.2 & 12.7 Hz, 1H), 2.37 (s, 3H), 2.23-2.14 (m, 1H), 2.13-2.03 (m, 1H), 1.98 (d, J=17.2 Hz, 1H), 1.91-1.83 (m, 1H), 1.62-1.53 (m, 1H). IR (KBr): 3096, 3079, 3049, 3023, 2945, 2904, 2847, 2798, 2764, 2708, 2596, 2315, 2212, 1942, 1910, 1747, 1667, 1587, 1562, 1532, 1496, 1470, 1443, 1429, 1419, 1406, 1356, 1318, 1302, 1276, 1259, 1244, 1213, 1198, 1164, 1146, 1130, 1109, 1093, 1074, 1059, 1009, 992, 969, 942, 918, 873, 852, 834, 813, 799, 777, 746, 728, 706, 675, 632, 575, 546, 532, 469, 443, 414, (cm−1). Analysis calculated for C14H16ClN: C, 71.94; H, 6.90; N, 5.99. Found: C, 71.88, H, 7.20, N, 6.00.

reactant | Racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol | 25.30 mmol, 6.37 g | ClC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18ClNO
solvent | trifluoroacetic acid | 30.8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene | ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | C14H16ClN
